US07585880B2
3-[4-({4-[([2-(4-fluorophenyl)ethyl]{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]-benzyl}oxy)phenyl]propanoic acid
To a solution of N-[2-(4-fluorophenyl)ethyl]-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine (400 mg, 1.09 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (50 mg, in oil, 1.3 mmol) at room temperature, and the mixture was stirred at room temperature for 1 hr. Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate (318 mg, 1.0 mmol) was added, and the mixture was further stirred at room temperature for 1 hr. The reaction mixture was poured into 1N hydrochloric acid and extracted with ethyl acetate. The organic layer was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19-1:1 in volume ratio) to give a yellow oil. The oil was dissolved in a mixed solvent of ethanol (5 mL) and tetrahydrofuran (5 mL), and 2N aqueous sodium hydroxide solution (2 mL) was added. The mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with water and neutralized with 1N hydrochloric acid. The precipitated solid was collected by filtration, washed with water and dried to give the title compound (109 mg, yield 17%, 2 steps) as colorless crystals.

reactant | N-[2-(4-fluorophenyl)ethyl]-4-[4-(trifluoromethyl)phenyl]-1,3-thiazole-2-amine | 1.09 mmol, 400 mg | FC1=CC=C(C=C1)CCNC=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F | C18H14F4N2S
reactant | sodium hydride | 1.3 mmol, 50 mg | [H-].[Na+]
reactant | Methyl 3-(4-{[4-(chloromethyl)benzyl]oxy}phenyl)propanoate | 1.0 mmol, 318 mg | ClCC1=CC=C(COC2=CC=C(C=C2)CCC(=O)OC)C=C1 | C18H19ClO3
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 2N, 2 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | hydrochloric acid | 1N | Cl | ClH
solvent | hydrochloric acid | 1N | Cl | ClH
product | 3-[4-({4-[([2-(4-fluorophenyl)ethyl]{4-[4-(trifluoromethyl)phenyl]-1,3-thiazol-2-yl}amino)methyl]-benzyl}oxy)phenyl]propanoic acid | 109 mg, yield 17% | FC1=CC=C(C=C1)CCN(C=1SC=C(N1)C1=CC=C(C=C1)C(F)(F)F)CC1=CC=C(COC2=CC=C(C=C2)CCC(=O)O)C=C1 | C35H30F4N2O3S
